US05574030
(1) 2-(3-Morpholino-1-phenylpropyl)amino-1-phenylethanol
2-Amino-1-phenylethanol (2.50 g, 18.2 mmol) and 4-(3-chloro-3-phenylpropyl)morpholine (4.37 g, 18.2 mmol) were mixed and heated to cause reaction at 110° C. for 40 minutes. The resulting mixture was cooled to room temperature, and then dissolved into chloroform (200 ml). After the solution was chilled with ice, 1N NaOH was added so that the hydrochloride was libereated. The chloroform portion was collected and dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure. The residue was purified by medium pressure silica gel column chromatography (chloroform/methanol=100/1) to obtain 2.88 g of the titled compound as a yellow oil (Yield: 46.5%).

reactant | 2-Amino-1-phenylethanol | 18.2 mmol, 2.50 g | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | 4-(3-chloro-3-phenylpropyl)morpholine | 18.2 mmol, 4.37 g | ClC(CCN1CCOCC1)C1=CC=CC=C1 | C13H18ClNO
reactant | NaOH | 1N | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Morpholino-1-phenylpropyl)amino-1-phenylethanol | 2.88 g, Yield: 46.5% | O1CCN(CC1)CCC(C1=CC=CC=C1)NCC(O)C1=CC=CC=C1 | C21H28N2O2
